US06150352
Step 1B 7-chloro-3-(3,5-dimethylphenyl)-4-hydroxy-6-nitro-1H-quinolin-2-one
To a solution of 4-chloro-2-[2-(3,5-dimethylphenyl)-acetylamino]-5-nitrobenzoic acid methyl ester (1.17 g in 10 mL dry tetrahydrofuran) at 0° C. was added dropwise a solution of sodium bis(trimethylsilyl)amide (7.8 mL of a 1.0M solution in tetrahydrofuran) and the mixture warmed to room temperature. After 2 hours, the reaction was quenched by the addition of 100 mL iced 6N hydrochloric acid. The slurry was stirred for 10 minutes then filtered and washed (2×) with ice water and then cold acetonitrile. The residue was dried overnight at 45° C. to give the title compound (970 mg).

reactant | 4-chloro-2-[2-(3,5-dimethylphenyl)-acetylamino]-5-nitrobenzoic acid methyl ester | 10 mL, 1.17 g | COC(C1=C(C=C(C(=C1)[N+](=O)[O-])Cl)NC(CC1=CC(=CC(=C1)C)C)=O)=O | C18H17ClN2O5
reactant | sodium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 7-chloro-3-(3,5-dimethylphenyl)-4-hydroxy-6-nitro-1H-quinolin-2-one | 970 mg | ClC1=C(C=C2C(=C(C(NC2=C1)=O)C1=CC(=CC(=C1)C)C)O)[N+](=O)[O-] | C17H13ClN2O4
